Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Fallm change in mental status
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with seizure disorder, longstanding anemia, frequent falls 
who was found on floor at home, but was awake when boyfriend 
found her but more confused than normal. He reports that she has 
been generally more weak than usual. Her general mode of getting 
around is with walker, cane or crawling on knees. He thinks that 
she might have another UTI (He blames the last hospitalization 
for fall on this). Of note her caregiver who is responsible for 
giving her her medications is legally blind.  

In the ED here VS were 95.6, 78 73/43, 16, 100RA. She had CXR 
showing Right 6th rib fx without ptx. No other fractures or 
abnormalities on CXR, CT head, CT c-spine, pelvix/hip. She had a 
right femoral triple lumen placed and received 3.5L per report, 
but can not confirm with ED records. Lactate was 0.8, CEs 
negative, no blood cultures were taken, no LFTs done. UA still 
pending after patient reached the floor. She had variable SBPs 
from 73 to 94. Her last BP in ED is recorded at 94/48. EKG 
showed worsening ST depressions in V1-2 and TWI across 
precordium, but normal QT. Labs showed baseline anemia, ARF.  
 
Past Medical History:
1. Chronic macrocytic anemia w/ mild  
2. Status post bone marrow biopsy ___ ___ EtOH 
toxicity pancytopenia > resolved and most likely attributed to 
ETOH toxicity  
3. Hypothyroidism  
4. h/o questionable seizures, but neg 48h EEG and nL MRI in 
past.  
5. Migraine headaches  
6. Questionable history of cardiac arrhythmias. ___ of Hearts 
in past showed some tachys to 180s. Patient denies.  
7. Peptic ulcer disease status post Nissen fundoplication. 
Remote  
8. Status-post hemorrhoidectomy.  
9. Asthma s/p intubation x 1 in past.  
10. Osteoarthritis.  
11. b/l cataracts  
12. R knee surgery  

 
Social History:
___
Family History:
Father died of CAD at age ___. Mother-alive and healthy. No 
family with MDS or leukemia 
 
Physical Exam:
VS: afebrile, normotensive, satting well on 2L NC  
Gen: pale, obeys commands  
HEENT: Ecchymosis on head, Poor dentition, EOMI, no nystagmus  
Neck: No JVD, no thyromegaly, no LAD  
Cor: RRR no m/r/g  
Pulm: CTAB  
Abd: +BS, NTND, No HSM  
Extrem: no c/c/e  
Skin: pale, +brusising.  
Neuro: Oriented to BI, ___, unclear about reason she 
was here. some fasiculations. ___ strength.  

 
Pertinent Results:
CBC:
___ 09:58AM BLOOD WBC-4.9 RBC-2.23*# Hgb-7.4*# Hct-23.6* 
MCV-106*# MCH-33.1* MCHC-31.3 RDW-13.9 Plt ___
___ 04:55AM BLOOD WBC-6.4 RBC-3.22* Hgb-10.4* Hct-31.2* 
MCV-97 MCH-32.3* MCHC-33.3 RDW-15.5 Plt ___

Coags: 
___ 09:22PM BLOOD ___ PTT-27.5 ___
___ 04:55AM BLOOD ___ PTT-23.3 ___

Chemistry: 
___ 05:05PM BLOOD Glucose-103 UreaN-18 Creat-1.2* Na-144 
K-3.8 Cl-114* HCO3-25 AnGap-9
___ 04:55AM BLOOD Glucose-53* UreaN-8 Creat-0.6 Na-142 
K-3.6 Cl-114* HCO3-22 AnGap-10
___ 09:22PM BLOOD Calcium-6.1* Phos-3.4 Mg-1.7
___ 05:15AM BLOOD Calcium-7.3* Phos-3.2 Mg-1.4*
___ 05:24PM BLOOD freeCa-1.12

LFTs: 
___ 09:22PM BLOOD ALT-24 AST-41* LD(___)-253* AlkPhos-122* 
TotBili-0.5
___ 03:19AM BLOOD ALT-22 AST-31 LD(LDH)-270* AlkPhos-114 
TotBili-0.9

Cardiac Enzymes: 
___ 05:05PM BLOOD cTropnT-<0.01
___ 05:35AM BLOOD CK-MB-5 cTropnT-0.01
___ 03:25PM BLOOD CK-MB-7 cTropnT-<0.01

Albumin: 
Albumin-1.6* 
PREALBUMIN  8 L  (normal: ___ MG/DL)

Iron/Vit B12/Folate:
___ 05:05PM BLOOD calTIBC-87* VitB12-1296* Folate-GREATER 
TH Ferritn-834* TRF-67*

Ammonia: 
___ 03:25PM BLOOD Ammonia-25

TFTs: 
___ 09:22PM BLOOD TSH-<0.02*
___ 05:15AM BLOOD T4-3.0* T3-46* calcTBG-0.85 TUptake-1.18 
T4Index-3.5*
___ 09:22PM BLOOD Free T4-1.5

Cortisol: 
___ 05:35AM BLOOD Cortsol-10.6
After Cosyntropin: 
___ 03:25PM BLOOD Cortsol-37.7*

Hep serologies: 
___ 04:38PM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE
___ 03:19AM BLOOD HAV Ab-NEGATIVE IgM HAV-NEGATIVE
___ 05:15AM BLOOD HCV Ab-NEGATIVE

Misc:
ALPHA-1-ANTITRYPSIN: 126  (Norm: 83-199 MG/DL) 
CERULOPLASMIN: 19  (Norm: ___ MG/DL)

Tox screen: 
___ 05:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS

Head CT: ___:
FINDINGS: There is no acute intracranial hemorrhage, edema, 
shift of normally midline structures, or hydrocephalus. The 
gray-white matter differentiation is preserved. The density 
values of brain parenchyma are within normal limits. Imaged 
paranasal sinuses and mastoid air cells are pneumatized and well 
aerated. The osseous structures and extra-calvarial soft tissues 
are unremarkable.  
IMPRESSION: No acute intracranial hemorrhage, no change from 
___.  The study and the report were reviewed by the 
staff radiologist. 

Spine CT ___: 
FINDINGS: There is no acute fracture. The lengths of the 
vertebral bodies 
are preserved. The atlantoaxial and atlanto-occipital 
relationships are 
maintained. Normal cervical lordosis is exaggerated as on the 
prior studies. The prevertebral soft tissues are normal. Imaged 
lung apices are clear. There is no bony canal stenosis.   
IMPRESSION: No acute fracture or malalignment 

Hip/pelv XR: ___:
FINDINGS: The pelvis is intact without fracture or dislocation. 
Sacrum and 
sacroiliac joints are unremarkable. Bilateral femoral heads are 
appropriately located. In particular, there is no fracture or 
dislocation involving the proximal right femur. A right femoral 
line is in place.   
IMPRESSION: No traumatic injury to the right hip or pelvis. 

CRX: ___:
FINDINGS: The lungs are well expanded and clear. The mediastinum 
is 
unremarkable. There is a well-defined descending thoracic aorta. 
The cardiac silhouette is within normal limits for size. No 
effusion or pneumothorax is noted. There is a deformity 
involving the anterolateral aspect of the right sixth rib 
consistent with interval fracture. Given history, this may be 
acute. It is new since the prior study. The spinal column is 
normal on AP view.   
IMPRESSION: Question age-indeterminate fracture of the lateral 
aspect of the right sixth rib. No pneumothorax noted. 

ABD U/S: ___:
FINDINGS: The liver demonstrates a diffusely increased 
echogenicity 
consistent with fatty infiltration. There are no focal liver or 
liver 
abnormalities detected. The main portal vein is patent with 
appropriate 
hepatopetal flow. There is no intra- or extra-hepatic biliary 
dilatation. 
This is a technically limited study, and the pancreas is not 
well visualized. The spleen measures 10.3 cm and is 
unremarkable. The abdominal aorta was unable to be adequately 
visualized. The left kidney measures 9.1 cm and the right kidney 
measures 9.0 cm. There is no evidence of hydronephrosis, 
nephrolithiasis, or discrete masses in the bilateral kidneys. 
There is noted to be a right pleural effusion.   
IMPRESSION: 
1. Diffuse fatty infiltration of the liver. Other forms of liver 
disease and more advanced liver disease including significant 
hepatic fibrosis/cirrhosis cannot be excluded on this study.   
2. Technically limited ultrasound.   
3. Right pleural effusion.   
The study and the report were reviewed by the staff radiologist. 


ABD XR series: ___:
FOUR VIEWS OF THE ABDOMEN: A right-sided femoral line has been 
removed. A 
large amount of air is seen throughout the bowel, but no 
unusually dilated 
loop of bowel or unusual gas or fluid collection. There are 
multiple 
phleboliths in the pelvis. Osseous structures are unremarkable. 
Lateral 
decubitus view demonstrates no evidence of free air.   
IMPRESSION: No evidence of obstruction or free air.   
The study and the report were reviewed by the staff radiologist. 


 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a multiple medical 
problems PMH significant for possible seizure disorder admitted 
for a  fall complicated by hypotension and mental status change 
and found to have a UTI.
.
#Fall: Patient found not to have a fracture.  This was not her 
first fall.  It is unclear if this was related to a seizure or 
not.  She will be seen in ___ clinic.  She was seen by 
___ who thought that she was a high fall risk and recommended 
going to a rehab hospital.  Staff agreed with this assessment 
however patient had a bad expereince at a rehab hospital before 
and refused to go despite our recommendation.  Multiple 
conversations were held with her regarding this but she refused 
to go.  We discharged her home with ___ and home ___ three times 
a week.  

# Hypotension: Uncertain etiology at this time.  Hypotension was 
not fluid responsive, but multiple lactate levels have been 
negative.  Unlikely to be infectious/sepsis.  Likely element of 
autonomic dysfunction.  ___ be related to low cortisol although 
unlikely.  

# Change in Mental Status: Change in mental status may be due to 
polypharmacy, post-ictal confusion, primary CNS, and hepatic 
encephalopathy.  Resolved on its own and patient is back to 
baseline of conversive and oriented times three.  Although she 
does seem to lack insight into her multiple diseases.  
Hepatology did not think that there was a liver etiology for her 
issues.  Her hepatitis serologies came back consistent with Hep 
B vaccinated and nothing else.  Her cerruloplasmin was 
boarderline low at 19 and her alpha 1 antitrypsan was normal.  
It is unclear if she has some unifying diagnosis to explain her 
liver abnormalities, hypothyroidism and seizures.  She did have 
elevated ferritin and some evidence of pituitary dysfunction.  
In future may consider further workup for hemachromatosis.  
.
# UTI: Prelim speciation as E.coli sensitive to bactrim.  
Patient given course of Bactrim.  
.
# Anemia: Hct this AM 28.4.  Patient received 1u PRBC with 
appropriate increase.  
.
# Coagulopathy: Likely secondary to liver disease and/or 
malnutrition. Received 10 mg po vitamin K yesterday.  Patient 
started on daily vitamin K.  
.
# Nutritional status: Patient came in with low albumin and found 
to have low albumin.  Nutritional consult obtained and they 
recomended supplementing meals with ensure.  This was done in 
the hospital.  Unlikely patient will continue as an outpatient.  
___ need further nutritional work as outpatient.  
.
# Hypothyroid: Patient with TSH on admission of <0.02 with free 
T4 of 1.5.  T3 found to be low.  Would re-check as outpatient 
when she is in a more stable setting and adjust dose at that 
time.  
.
# Medication changes: 
1) Bactrim DS one tab twice a day. Take until ___. 
2) Restarted on your Keppra 750 twice a day. 
3) Phytonadione 5mg daily
4) Thiamine 100mg daily
5) Senna one tab twice a day
6) Docusate 100mg twice a day

Medications stopped: 
1) Atenolol
2) Gabapentin
3) Propoxyphene
4) Zomig
5) Zolpidem
 
Medications on Admission:
atenolol 25 Daily  
albuterol  
cyclobenzaprine 5mg Daily  
Folic acide 1mg Daiy  
Gabapentin 300mg TID  
imitrex ___ Daily  
Levothyroxine 100mcg Daily  
Lorazepam 1 mg QHS  
Lexapro 10mg Daily  
MVI  
Mag oxide 400mg Daily  
Omeprazole 20mg Daily  
Propoxyphene 65mg Daily  
Zomig 2.5mg Daily  
Zolpidem 10mg Daily 
 
Discharge Medications:
1. Multivitamin,Tx-Minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
2. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q4H (every 4 hours) as needed.  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Escitalopram 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*30 Capsule(s)* Refills:*2*
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.
Disp:*30 Tablet(s)* Refills:*0*
7. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed.  
8. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
9. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
10. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Phytonadione 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 5 days.
Disp:*10 Tablet(s)* Refills:*0*
13. Keppra 750 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Change in Mental Satus
Seizure disorder
Urinary Tract Infection

 
Discharge Condition:
Stable, baseline

 
Discharge Instructions:
You were admitted to this hospital for a change in your mental 
status and low blood pressure.  You initially went to the 
intensive care unit for close monitoring.  Your blood pressure 
normalized and you became more oriented.  You were transferred 
to a general medical floor.  

You were found to have a urinary tract infection which is being 
treated by Bactrim.  Please take your full course outlined 
below.  We think that the urinary tract infection may have been 
contributing to your symptoms.  

Medication changes:
1) Bactrim DS one tab twice a day.  Take until ___.  
2) Restarted on your Keppra 750 twice a day.  
3) Phytonadione 5mg daily
4) Thiamine 100mg daily
5) Senna one tab twice a day
6) Docusate 100mg twice a day

Please stop the following medications until you discuss them 
with your primary care doctor.  
1) Atenolol
2) Gabapentin
3) Propoxyphene
4) Zomig
5) Zolpidem

Take all other medications as previously instructed.  
It is very important that you take your medication every day.

Doctors ___: 
1. Dr. ___ in ___ clinic on ___ at 10:30. 
 
2. Please call Dr. ___ office at ___ to 
schedule an appointment in ___ weeks.  

Please return to the hospital or call your doctor if you have 
temperature greater than 101, shortness of breath, worsening 
difficulty with swallowing, chest pain, abdominal pain, 
diarrhea, or any other symptoms that you are concerned about.

 
Followup Instructions:
___